US04748239
(cis)-3-(Acetyloxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-7-hydroxy-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride
A solution of 0.5 g (0.87 mmol) of (cis)-3-(acetyloxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(phenylmethoxy)-2H-1-benzazepin-2-one, monohydrochloride, (see Example 12) in 30 ml of methanol was treated under argon with 150 mg of 10% palladium on charcoal and shaken on the Parr hydrogenator at 50 p.s.i. for 5 hours. The catalyst was filtered off under argon, washed with methanol and the combined filtrates evaporated. The residue (which began to solidify) was rubbed under ether and the evaporation repeated. The solid was dried in vacuo for several hours yielding 0.40 g of the title compound, melting point 229°-231° C., dec., preceded by gradual sintering.

reactant | (cis)-3-(acetyloxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(phenylmethoxy)-2H-1-benzazepin-2-one, monohydrochloride | 0.87 mmol, 0.5 g | Cl.C(C)(=O)O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)OCC2=CC=CC=C2)CCN(C)C)=O
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
product | (cis)-3-(Acetyloxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-7-hydroxy-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride | 0.40 g | Cl.C(C)(=O)O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)O)CCN(C)C)=O | InChI=1S/C23H28N2O5.ClH/c1-15(26)30-22-20(16-5-8-19(29-4)9-6-16)14-17-13-18(27)7-10-21(17)25(23(22)28)12-11-24(2)3;/h5-10,13,20,22,27H,11-12,14H2,1-4H3;1H/t20-,22+;/m1./s1
